US08044043B2
(6R,9R)-2-Chloro-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate.
To the mixture of (6R,9R)-2-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (45 mg, 0.084 mmol), HYDROCHLORIC ACID (3 mL, 36.5 mmol) was added COPPER(I) CHLORIDE (16.67 mg, 0.168 mmol) and SODIUM NITRATE (21.47 mg, 0.253 mmol) at −5° C. The reaction was stirred at this temperature for 1 hour and stirred at room temperature for 1 hour. NaOH (1N) was added to the reaction mixture before extract with ethyl acetate twice. The ethyl acetate layer was washed by brine before separated, dried (Na2SO4), filtered and concentrated. Flash column by methanol in CH2Cl2 from 0 to 4% to 8% to give the desired product (6.4 mg, 12%). MS(ESI)[M+H+]=554.09.

reactant | (6R,9R)-2-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 0.084 mmol, 45 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H](CC=2C1=NC(=CC2)N)C2=C(C(=CC=C2)F)F | C28H28F2N6O3
reactant | HYDROCHLORIC ACID | 36.5 mmol, 3 mL | Cl | ClH
reactant | SODIUM NITRATE | 0.253 mmol, 21.47 mg | [N+](=O)([O-])[O-].[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
catalyst | COPPER(I) CHLORIDE | 0.168 mmol, 16.67 mg | [Cu]Cl
product | (6R,9R)-2-Chloro-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 6.4 mg, 12% | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H](CC=2C1=NC(=CC2)Cl)C2=C(C(=CC=C2)F)F | C28H26ClF2N5O3
